simulator lang=spectre
include "sky130.lib.spice" section=tt
include "circuit.scs"
options method=gear reltol=2e-3 abstol=1e-12 vntol=1e-6 chgtol=1e-15
parameters vddval=1.8 vcm=0.9 vbiasval=0.72

VSS (vss 0) vsource dc=0
VDD (vdd vss) vsource dc=vddval
VBIAS (vbias vss) vsource dc=vbiasval
VIP (vinp vss) vsource dc=vcm mag=0.5
VIN (vinn vss) vsource dc=vcm mag=-0.5
XAMP (vss vbias vdd vinn vinp vout) ota_5t
CL (vout vss) capacitor c=100f

ac1 ac dec=50 start=1 stop=1e9
measure ac gain10_v FIND vm(vout) AT=10
measure ac gain10_db FIND vdb(vout) AT=10
measure ac gain1k_v FIND vm(vout) AT=1k
measure ac gain1k_db FIND vdb(vout) AT=1k
